US05945557
To a 250 ml round bottom flask equipped with magnetic stirrer, reflux condenser, and nitrogen inlet was charged 2.0 g (0.01 moles) of 2-(3-hydroxyphenyl)cyclopropylcyclopropyl ketone (3.5 g of methyltriphenyphosphonium bromide (0.01 moles), and 50 mls of anhydrous tetrahydrofuran. To this mixture was added 2.2 g (0.02 moles) of potassium t-butoxide, and the reaction was heated to reflux under nitrogen for a total of 3 hours. Upon cooling, the THF solution was poured into aprox. 200 ml of ethyl ether, and the organic layer was washed with 2×100 ml of water, and 100 ml of saturated aqueous sodium chloride solution. The ether extract was dried over anhydrous magnesium sulfate, filtered, and concentrated to dryness on a rotary evaporator. The crude product was chromatographed with silica gel flash chromatography using a mobile phase of 15% ethyl acetate, 85% hexane. The pure fractions were combined and concentrated on a rotary evaporator to afford 1.3 g (65% yield) of 2-(3hydroxyphenyl)-cyclopropyl cyclopropyl ketone as a pale yellow liquid.

reactant | 2-(3-hydroxyphenyl)cyclopropylcyclopropyl ketone | 0.01 moles, 2.0 g | OC=1C=C(C=CC1)C1C(C1)C1(CC1)C(=O)C1(CC1)C1C(C1)C1=CC(=CC=C1)O | C25H26O3
reactant | potassium t-butoxide | 0.02 moles, 2.2 g | CC(C)([O-])C.[K+]
reactant | THF | C1CCOC1 | C4H8O
reactant | tetrahydrofuran | 50 mls | O1CCCC1 | C4H8O
catalyst | methyltriphenyphosphonium bromide | 0.01 moles, 3.5 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(3hydroxyphenyl)-cyclopropyl cyclopropyl ketone | 1.3 g, 65% yield | C1(CC1)C(=O)C1C(C1)C1=CC(=CC=C1)O | C13H14O2
